US06498165B1
Step D: (S)-1-(3-Tert-butyloxycarbonylphenyl)-1-azidoethane
(R)-1-(3-tert-butyloxycarbonylphenyl)-ethyl methanesulfonyl ether (3.28 mmol) was dissolved in N,N-dimethylformamide (20 mL) and sodium azide (8.57 mmol) was added. The resultant mixture was heated to 60° C. for 45 min then stirred at room temperature overnight. Worked up by pouring into water and extracting 3× with diethyl ether. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated under reduced pressure to yield 769 mg of an oil which was used without further purification. 1H NMR (500 MHz, CDCl3): δ 7.96 (m, 2H); 7.52 (m, 1H); 7.45 (m, 1H); 4.69 (q, J=6.9 Hz, 1H): 1.63 (s, 9H); 1.57 (d, J=6.8 Hz, 3H).

reactant | (R)-1-(3-tert-butyloxycarbonylphenyl)-ethyl methanesulfonyl ether | 3.28 mmol | CS(=O)(=O)O[C@H](C)C1=CC(=CC=C1)C(=O)OC(C)(C)C | C14H20O5S
reactant | sodium azide | 8.57 mmol | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (S)-1-(3-Tert-butyloxycarbonylphenyl)-1-azidoethane | 769 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)[C@H](C)N=[N+]=[N-] | C13H17N3O2
